US04085263
The inside of the system with a 2 lit. capacity autoclave of stainless steel was fully purged with nitrogen gas and 985 cc of toluene, 13 cc of tetrahydrofuran, 135 cc of styrene, 900 cc of butadiene and 10 cc of a butyl lithium solution were put in the autoclave. The mixture solution thus formed was reacted at 70° C. for 3 hr. After sampling of a part of the reaction mixture solution in an amount of 100 cc, 25 g of ethylenediamine was added to the remaining solution to perform a further isomerization reaction. The isomerization reaction was carried out for another 6 hr at the temperature. And after the completion of the reaction, 40 cc of methanol was added thereto to inactivate the catalyst, followed by washing with water. The washing was repeated until the solution was not alkaline. By distilling off the solvents, there was obtained a butadiene-styrene copolymer in a pale color.

reactant | ethylenediamine | 100 cc, 25 g | C(CN)N | C2H8N2
solvent | methanol | 40 cc | CO | CH4O
product | butadiene-styrene copolymer | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
